US09359381B2
Step 1: (S)-2-Amino-3-(tritylthio)propan-1-ol
D-Cysteine (2.36 g, 19.48 mmol) was suspended in THF (40 mL) and cooled to 0° C. Borane-tetrahydrofuran complex (1 M in THF, 78 mL, 78 mmol) was added over 20 mins and the mixture was stirred at RT for 6 hours. The reaction was quenched with DMF (7 mL) and stirred for 25 mins. Trityl chloride (5.97 g, 21.43 mmol) was added and the mixture stirred for a further 16 hours. The reaction mixture was evaporated under vacuum. The residue was partitioned between DCM and water and the phases separated. The organic phase was passed through a hydrophobic frit and evaporated under vacuum. Purification by chromatography on silica, eluting with 50% EtOAc/hexane, EtOAc, 10% MeOH/EtOAc and 20% MeOH/EtOAc gave the title compound.

reactant | D-Cysteine | 19.48 mmol, 2.36 g | N[C@H](CS)C(=O)O | C3H7NO2S
reactant | Borane tetrahydrofuran | 78 mmol, 1 M, 78 mL | B.O1CCCC1
reactant | Trityl chloride | 21.43 mmol, 5.97 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | (S)-2-Amino-3-(tritylthio)propan-1-ol | N[C@@H](CO)CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H23NOS
